US07939533B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[(1S,5R)-4-(4-fluoro-2-methyl-phenyl)-6-8-oxa-3-aza-bicyclo[3.2.1]oct-3-yl-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 0.15 g (0.28 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 0.13 g (0.84 mmol) 8-oxa-3-aza-bicyclo[3.2.1]octane hydrochloride and 0.20 g (1.4 mmol) potassium carbonate in 1 ml dimethyl sulfoxide was heated at 150° C. under microwave irradiation in a sealed tube for 30 min. Another portion of 0.06 g (0.4 mmol) 8-oxa-3-aza-bicyclo[3.2.1]octane hydrochloride was added and the reaction mixture was heated at 150° C. under microwave irradiation in a sealed tube for 30 more minutes. After cooling to room temperature the reaction mixture was diluted with water and extracted with four portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulfate and concentrated. Flash column chromatography gave 32 mg (18%) of the title compound as a light yellow solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.28 mmol, 0.15 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | 8-oxa-3-aza-bicyclo[3.2.1]octane hydrochloride | 0.84 mmol, 0.13 g | Cl.C12CNCC(CC1)O2
reactant | potassium carbonate | 1.4 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-oxa-3-aza-bicyclo[3.2.1]octane hydrochloride | 0.4 mmol, 0.06 g | Cl.C12CNCC(CC1)O2
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[(1S,5R)-4-(4-fluoro-2-methyl-phenyl)-6-8-oxa-3-aza-bicyclo[3.2.1]oct-3-yl-pyridin-3-yl]-N-methyl-isobutyramide | 32 mg, 18% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@@H]2CC[C@H](C1)O2)(C)C)(F)F | C31H30F7N3O2
